US09227978B2
2-(4-Chloro-5-cyclopropyl-2-hydroxyphenylamino)acetic acid
To a solution of ethyl 2-(4-chloro-5-cyclopropyl-2-hydroxyphenylamino)acetate (290 mg, 0.89 mmol) in of 4:1 mixture of tetrahydrofuran and water (30 mL) at RT, LiOH.H2O (226 mg, 5.34 mmol) was added and the resulting mixture was stirred for 2 h at 60° C. The mixture was acidified with aqueous HCl (1N) to adjust the pH to 3-5 and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford the product (100 mg, 47% yield). 1H NMR (400 MHz, DMSO-d6) δ: 9.64 (s, 1H), 6.66 (s, 1H), 5.96 (s, 1H), 3.81 (s, 2H), 1.89-1.96 (m, 1H), 0.84-0.87 (m, 2H), 0.54-0.56 (m, 2H).

reactant | ethyl 2-(4-chloro-5-cyclopropyl-2-hydroxyphenylamino)acetate | 0.89 mmol, 290 mg | ClC1=CC(=C(C=C1C1CC1)NCC(=O)OCC)O | C13H16ClNO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | LiOH.H2O | 5.34 mmol, 226 mg | O[Li].O
reactant | HCl | 1N | Cl | ClH
solvent | water | 30 mL | O | H2O
product | 2-(4-Chloro-5-cyclopropyl-2-hydroxyphenylamino)acetic acid | 100 mg, 47% yield | ClC1=CC(=C(C=C1C1CC1)NCC(=O)O)O | C11H12ClNO3
